US07081531B2
3-(3,4-Dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (0.35 g, 0.94 mmol) was stirred in 2 mL of CH2Cl2 with 0.5 mL of TFA at rt for 3 h. After being quenched with 20% NaOH to basic medium, the mixture was extracted with EtOAc. The organic layer was washed with NaCl (sat.), dried over Na2SO4 and concentrated to give 0.25 g of 3-(3,4-Dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane.

reactant | 3-(3,4-Dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.94 mmol, 0.35 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)CC2=CC(=C(C=C2)Cl)Cl | C19H25Cl2NO2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-(3,4-Dichloro-benzyl)-8-aza-bicyclo[3.2.1]octane | 0.25 g | ClC=1C=C(CC2CC3CCC(C2)N3)C=CC1Cl | C14H17Cl2N
